US08071581B2
Step 2: (7-Methyl-quinolin-6-yl)-acetic acid tert-butyl ester
To 1.02 g of 6-bromo-7-methyl-quinoline were added a solution of 20 ml of tert-butylzincbromide acetate and 0.58 g of Pd(PPh3)4. The mixture was placed in the microwave reactor for 30 min to achieve a temperature of 120° C. (repeated for 3 times.). Purification via flash column chromatography returned the title compound (3.2 g, 68%). 1H NMR (CDCl3, 300 MHz) δ 8.84 (m, 1H), 8.07 (m, 1H), 7.89 (s, 1H), 7.63 (s, 1H), 7.31 (m, 1H), 3.72 (s, 2H), 2.51 (s, 3H), 1.46 (s, 9H).

reactant | 6-bromo-7-methyl-quinoline | 1.02 g | BrC=1C=C2C=CC=NC2=CC1C | C10H8BrN
reactant | tert-butylzincbromide acetate | 20 ml | C(C)(=O)[O-].[Br-].C(C)(C)(C)[Zn+2]
catalyst | Pd(PPh3)4 | 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (7-Methyl-quinolin-6-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC=1C=C2C=CC=NC2=CC1C)=O | C16H19NO2
